US06787534B2
6-(4-Toluenesulfonylamino)isoquinoline
In pyridine (30 ml) was dissolved 6-aminoisoquinoline (3.348 g, Synthesis, 733 (1975), and 4-toluenesulfonyl chloride (5.13 g) was added thereto, followed by stirring at room temperature overnight. Water was added thereto, followed by extracting with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was recrystallized from ethanol, to give the title compound (5.958 g, 85%) as pale yellow crystals.

reactant | 4-toluenesulfonyl chloride | 5.13 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Water | O | H2O
reactant | 6-aminoisoquinoline | NC=1C=C2C=CN=CC2=CC1 | C9H8N2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 6-(4-Toluenesulfonylamino)isoquinoline | 5.958 g, 85% | C1(=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=CN=CC2=CC1)C | C16H14N2O2S
